US07112585B2
Part C. 3-Ethoxy-2-(4-methoxy-benzenesulfonyl)-acrylic acid ethyl ester
A mixture of (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester (8.3 g, 32 mmol) and triethyl orthoformate (16 mL, 96 mmol) in acetic anhydride (20 mL) was refluxed under N2 for 16 h. Solvents were removed by distillation (keep the temperature of oil bath below 180° C.). The residue was purified by chromatography on silica gel (1:1 ethyl acetate/hexanes) to provide the desired product as a mixture of isomers (a mixture of trans- and cis-isomers, 5.3 g, 53%) as a light yellow oil.

reactant | (4-methoxy-benzenesulfonyl)-acetic acid ethyl ester | 32 mmol, 8.3 g | C(C)OC(CS(=O)(=O)C1=CC=C(C=C1)OC)=O | C11H14O5S
reactant | triethyl orthoformate | 96 mmol, 16 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 3-Ethoxy-2-(4-methoxy-benzenesulfonyl)-acrylic acid ethyl ester | C(C)OC(C(=COCC)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C14H18O6S
